US05959107
A solution 8 ml of bromine 7.00 g in methanol was added dropwise to a suspension 8 ml of 4-chloro-2-nitroaniline 6.61 g (38.3 mmol) and ammonium thiocyanate 7.00 g (92.0 mmol) in methanol, and the mixture was stirred for 2 hours at room temperature. The reaction mixture was poured into ice water and alkalized with 4N sodium hydroxide, and the precipitated crystals were filtered. The crystals were washed with water and with ether and dried under reduced pressure, and 4-chloro-2-nitro-5-thiocyanatoaniline 7.88 g (89.6%) was obtained.

reactant | bromine | 8 ml, 7.00 g | BrBr | Br2
reactant | 4-chloro-2-nitroaniline | 38.3 mmol, 8 ml, 6.61 g | ClC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | ammonium thiocyanate | 92.0 mmol, 7.00 g | [S-]C#N.[NH4+]
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 4-chloro-2-nitro-5-thiocyanatoaniline | 7.88 g, 89.6% | ClC1=CC(=C(N)C=C1SC#N)[N+](=O)[O-] | C7H4ClN3O2S
